US09387254B2
(4-ethynylphenyl)(9H-fluoren-9-yl)methyl 4-nitrophenyl carbonate
A solution of (4-ethynylphenyl)(9H-fluoren-9-yl)methanol (1.0 equivalent) in THF is added to a 1.0 M solution of LiHMDS (1.0 equivalent) in THF at −78° C. After 15 minutes, a solution of bis(4-nitrophenyl) carbonate (1.5 equivalent) is added. The mixture is allowed to warm slowly to ambient temperature, quenched by addition of 1 N HCl, and extracted with ether. The extract is washed sequentially with 1 N HCl, water, and brine, then dried over mgSO4, filtered, and evaporated. The product 4-nitrophenyl carbonate is purified by chromatography on silica gel.

reactant | (4-ethynylphenyl)(9H-fluoren-9-yl)methanol | 1.0 equivalent | C(#C)C1=CC=C(C=C1)C(O)C1C2=CC=CC=C2C=2C=CC=CC12 | C22H16O
reactant | LiHMDS | 1.0 equivalent | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | bis(4-nitrophenyl) carbonate | 1.5 equivalent | C(OC1=CC=C(C=C1)[N+](=O)[O-])(OC1=CC=C(C=C1)[N+](=O)[O-])=O | C13H8N2O7
solvent | THF | C1CCOC1 | C4H8O
product | (4-ethynylphenyl)(9H-fluoren-9-yl)methyl 4-nitrophenyl carbonate | C(OC(C1C2=CC=CC=C2C=2C=CC=CC12)C1=CC=C(C=C1)C#C)(OC1=CC=C(C=C1)[N+](=O)[O-])=O | C29H19NO5
